US04704459
In 30 ml of anhydrous tetrahydrofuran was dissolved 700 mg of 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinic acid, and 1.13 g of N,N'-carbonyldiimidazole was added thereto with ice-cooling, after which the resulting mixture was subjected to reaction at room temperature for 6 hours. Subsequently, 990 mg of magnesium ethoxycarbonylacetate was added thereto, and the resulting mixture was subjected to reaction at 55° C. for 2 hours, after which the reaction mixture was added to a mixture of 75 ml of ethyl acetate and 65 ml of water. The pH thereof was adjusted to 2.0 with 6N hydrochloric acid. The organic layer was separated and 30 ml of water was added, after which the pH thereof was adjusted to 7.5 with saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated, washed successively with 30 ml of water and 30 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: benzene] to obtain 680 mg (yield 78.9%) of ethyl 2-[6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate. The physical properties of this compound were identical with those of the compound obtained in Example 19.

reactant | 6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinic acid | 700 mg | ClC1=NC(=C(C(=O)O)C=C1F)NC1=C(C=C(C=C1)F)F | C12H6ClF3N2O2
reactant | magnesium ethoxycarbonylacetate | 990 mg | C(C)OC(=O)CC(=O)[O-].[Mg+2].C(C)OC(=O)CC(=O)[O-]
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 65 ml | O | H2O
product | ethyl 2-[6-chloro-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 680 mg, yield 78.9% | ClC1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C16H12ClF3N2O3
